US05700796
N-[5-(4H-Pyrazolo[5,1-c][1,4]benzodiazepin-5(10H)-ylcarbonyl)-2-pyridinyl]-[1,1'-biphenyl]-2-carboxamide
To a chilled (0° C.) solution of 0.185 g of 5,10-dihydro-4H-pyrazolo[5,1-c][1,4]benzodiazepine and 417 μl of triethylamine in 3.5 ml of dichloromethane is added 0.35 g of 6-(2-biphenylcarbonyl)aminopyridine-3-carbonyl chloride in 1.5 ml of dichloromethane. The mixture is stirred at room temperature under argon for 16 hours, diluted with 40 ml of dichloromethane and 20 ml of water. The organic layer is separated, washed with 20 ml of brine and dried (Na2SO4). The solution is filtered through a thin pad of hydrous magnesium silicate. The filtrate is concentrated to dryness under vacuum to give 0.4 g of solid. The solid is purified on silica gel prep-plates with ethyl acetate-hexane (3:1) as eluent to give 170 mg of a brown glass, m.p. 110°-150° C.

reactant | 5,10-dihydro-4H-pyrazolo[5,1-c][1,4]benzodiazepine | 0.185 g | N1=CC=C2CNC3=C(CN21)C=CC=C3 | C11H11N3
reactant | triethylamine | 417 μl | C(C)N(CC)CC | C6H15N
reactant | 6-(2-biphenylcarbonyl)aminopyridine-3-carbonyl chloride | 0.35 g | C=1(C(=CC=CC1)C(=O)NC1=CC=C(C=N1)C(=O)Cl)C1=CC=CC=C1 | C19H13ClN2O2
solvent | dichloromethane | 3.5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 1.5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | water | 20 ml | O | H2O
product | N-[5-(4H-Pyrazolo[5,1-c][1,4]benzodiazepin-5(10H)-ylcarbonyl)-2-pyridinyl]-[1,1'-biphenyl]-2-carboxamide | 0.4 g | N1=CC=C2CN(C3=C(CN21)C=CC=C3)C(=O)C=3C=CC(=NC3)NC(=O)C=3C(=CC=CC3)C3=CC=CC=C3 | C30H23N5O2
